US08937071B2
A solution of 2-(4-bromo-2-fluorophenyl)-N-(6-(2-(dimethylamino)ethoxy)-5-(trifluoro methyl)pyridin-3-yl)acetamide (0.1 g, 0.215 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (0.066 g, 0.258 mmol), PdCl2(dppf) (0.016 g, 0.022 mmol) and potassium acetate (0.042 g, 0.431 mmol) in 1,4-dioxane (5 mL) was stirred at 80° C. for 16 h. After LCMS analysis showed the starting material had disappeared, the solvent was removed in vacuo. The residue was purified by preparative TLC (DCM/MeOH=20/1) to yield N-(6-(2-(dimethylamino)ethoxy)-5-(trifluoromethyl)pyridin-3-yl)-2-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetamide (42 mg, 0.076 mmol, 35.4% yield): 1H NMR (400 MHz, CD3OD) δ 8.56 (s, 1H), 8.30 (s, 1H), 7.51 (d, J=7.6 Hz, 1H), 7.43-7.30 (m, 2H), 4.75-4.68 (m, 2H), 3.80 (s, 2H), 3.41 (s, 2H), 2.82 (s, 6H), 1.33 (s, 12H); ES-LCMS m/z 512.2 (M+H).

reactant | 2-(4-bromo-2-fluorophenyl)-N-(6-(2-(dimethylamino)ethoxy)-5-(trifluoro methyl)pyridin-3-yl)acetamide | 0.215 mmol, 0.1 g | BrC1=CC(=C(C=C1)CC(=O)NC=1C=NC(=C(C1)C(F)(F)F)OCCN(C)C)F | C18H18BrF4N3O2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.258 mmol, 0.066 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 0.431 mmol, 0.042 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.022 mmol, 0.016 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-(6-(2-(dimethylamino)ethoxy)-5-(trifluoromethyl)pyridin-3-yl)-2-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetamide | 0.076 mmol, 42 mg, 35.4% yield | CN(CCOC1=C(C=C(C=N1)NC(CC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)F)=O)C(F)(F)F)C | C24H30BF4N3O4
